### PR TITLE
Workshop and homework for week 2

### PR DESCRIPTION
**Pull request by themathqueen**
primary author: @SimoneCastellan

### CODE REVIEW

File: Formal2024/Homeworks/homework2.lean [hunk 1]
```diff
@@ -0,0 +1,80 @@
...
+# Homework 1: Logic
+References: [MIL] Mathematics in Lean, [Tut] Tutorials project.
+Most of this homework is taken from [Tut04]
+-/
+
+import Mathlib.Data.Real.Basic
+import Mathlib.Tactic
+
+/-
+The next exercises use divisibility in ℤ (beware the ∣ symbol which is
```
Comment (themathqueen) [inline Formal2024/Homeworks/homework2.lean]:
```suggestion
The next set of exercises uses divisibility in `ℤ` (beware the `∣` symbol which is
```

File: Formal2024/Homeworks/homework2.lean [hunk 2]
```diff
@@ -0,0 +1,80 @@
...
+not ASCII).
```
Comment (themathqueen) [inline Formal2024/Homeworks/homework2.lean]:
```suggestion
not ASCII). This is done by writing `\|`.
```

File: Formal2024/Homeworks/homework2.lean [hunk 3]
```diff
@@ -0,0 +1,80 @@
...
+
+By definition, a ∣ b ↔ ∃ k, b = a*k, so you can prove a ∣ b using the
```
Comment (themathqueen) [inline Formal2024/Homeworks/homework2.lean]:
```suggestion
By definition, `a ∣ b ↔ ∃ k, b = a * k`, so you can prove `a ∣ b` using the
```

File: Formal2024/Homeworks/homework2.lean [hunk 4]
```diff
@@ -0,0 +1,80 @@
...
+`use` tactic.
+-/
+-- Until the end of this file, a, b and c will denote integers, unless
```
Comment (themathqueen) [inline Formal2024/Homeworks/homework2.lean]:
```suggestion
-- Until the end of this file, `a`, `b` and `c` will denote integers, unless
```

File: Formal2024/Homeworks/homework2.lean [hunk 5]
```diff
@@ -0,0 +1,80 @@
...
+-- [TUT] 0029
+example (h₁ : a ∣ b) (h₂ : b ∣ c) : a ∣ c := by
+  sorry
+
+/-
+A very common pattern is to have an assumption or lemma asserting
+  `h : ∃ x, y = ...`
+and this is used through the combo:
+  rcases h with ⟨x, hx⟩
+  rw hx at ...
```
Comment (themathqueen) [inline Formal2024/Homeworks/homework2.lean]:
```suggestion
  `rcases h with ⟨x, hx⟩`
  `rw hx at ...`
```

File: Formal2024/Homeworks/homework2.lean [hunk 6]
```diff
@@ -0,0 +1,80 @@
...
+  ring
+
+-- Now it's your turn! Prove the following:
+
+
+example : a ∣ b → a ∣ c → a ∣ b + c := by
+/-
+To get an even shorter proof, you can use the same `rfl` trick with
+the `rintro` tactic too. Try proving it both ways.
+-/
```
Comment (themathqueen) [inline Formal2024/Homeworks/homework2.lean]:
```suggestion
-- To get an even shorter proof, you can use the same `rfl` trick with
-- the `rintro` tactic too. Try proving it both ways.
```

File: Formal2024/Homeworks/homework2.lean [hunk 7]
```diff
@@ -0,0 +1,80 @@
...
+  sorry
+
+open Function
+
+-- In the remaining of this file, f and g will denote functions from ℝ to ℝ.
```
Comment (themathqueen) [inline Formal2024/Homeworks/homework2.lean]:
```suggestion
-- From now on, `f` and `g` will denote functions from `ℝ` to `ℝ`.
```

File: Formal2024/Workshops/workshop2.lean [hunk 8]
```diff
@@ -0,0 +1,239 @@
...
+  # Logic: Implication, universal quantifier, existential quantifier, negation
+  References: [MIL] Mathematics in Lean, [Tut] Tutorials project.
+  Most of the demonstration section comes [MIL].
+-/
+
+/-!
+  # Implication and universal quantifier
+-/
+
+-- To write `∀` type
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop2.lean]:
```suggestion
-- To write `∀` type `\forall`
```

File: Formal2024/Workshops/workshop2.lean [hunk 9]
```diff
@@ -0,0 +1,239 @@
...
+
+-- Lean treats the universal quantifier as an implication.
+-- Implications are grouped on the RIGHT (N.B. this is different from the usual convention)
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop2.lean]: > (N.B. this is different from the usual convention)

Isn't it the same though? If `P -> Q -> R`, then is the usual convention `(P -> Q) -> R`??

File: Formal2024/Workshops/workshop2.lean [hunk 10]
```diff
@@ -0,0 +1,239 @@
...
+-- It is useful to define functions, this can be done with the command `fun`
+
+#check fun x ↦ x + 1
+#check fun x ↦ f x + g x
+
+-- We can use implication hypothesis to get new hypotheses
+
+example (hfa : FnUb f a) (hgb : FnUb g b) : FnUb (fun x ↦ f x + g x) (a + b) := by
+  intro x
+  dsimp -- This step is needed for lean to unpack the definition of the function
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop2.lean]:
```suggestion
  dsimp -- This step is needed for Lean to unpack the definition of the function
```

File: Formal2024/Workshops/workshop2.lean [hunk 11]
```diff
@@ -0,0 +1,239 @@
...
+  apply add_le_add
+  exact hfa x
+  -- `hfa x` is now a proof of `f x ≤ a`
+  exact hgb x
+
+/-
+Since Lean sees an implication as a function from proofs of a Proposition to
+proofs of another Proposition, we can write the proof term explicitly, using `fun`.
+This is more concise, but probably less "human-like". Where to draw the line between
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop2.lean]:
```suggestion
This is more concise, but probably less "human-like." Where to draw the line between
```

File: Formal2024/Workshops/workshop2.lean [hunk 12]
```diff
@@ -0,0 +1,239 @@
...
+def FnLb (f : ℝ → ℝ) (a : ℝ) : Prop :=
+  ∀ x, a ≤ f x
+
+
+-- 1.  Prove this using `intro`
+
+example (hfa : FnLb f a) (hgb : FnLb g b) : FnLb (fun x ↦ f x + g x) (a + b) :=
+  sorry
+
+-- 2. Now try proving it without using any tactic!
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop2.lean]: what do you mean by without using any tactics?

File: Formal2024/Workshops/workshop2.lean [hunk 13]
```diff
@@ -0,0 +1,239 @@
...
+
+
+
+
+
+/-!
+  # Existential quantifier
+-/
+
+-- To write `∃` type
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop2.lean]:
```suggestion
-- To write `∃` type `\exists`.
```

File: Formal2024/Workshops/workshop2.lean [hunk 14]
```diff
@@ -0,0 +1,239 @@
...
+
+-- We can construct a proof term explicitly using the "anonymous constructor" notation
+
+example : ∃ x : ℝ, 2 * x = 5 :=
+  ⟨5/2 , by norm_num⟩ -- Lean matches the given data with the goal
+
+-- To use an exists statement, we need the command `rcases` and the anonymus constructor
+
+def FnHasUb (f : ℝ → ℝ) :=
+  ∃ a, FnUb f a -- f has an upper bound
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop2.lean]:
```suggestion
  ∃ a, FnUb f a -- `f` has an upper bound
```

File: Formal2024/Workshops/workshop2.lean [hunk 15]
```diff
@@ -0,0 +1,239 @@
...
+
+example (ubf : FnHasUb f) (ubg : FnHasUb g) : FnHasUb fun x ↦ f x + g x := by
+  rcases ubf with ⟨a, ubfa⟩
+  -- Adds new variable a (the upper bound) with property ubfa (a is the upper bound)
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop2.lean]:
```suggestion
  -- Adds new variable `a` (the upper bound) with property `ubfa` (`a` is the upper bound)
```

File: Formal2024/Workshops/workshop2.lean [hunk 16]
```diff
@@ -0,0 +1,239 @@
...
+  rcases ubg with ⟨b, ubgb⟩
+  use a + b
+  apply fnUb_add ubfa ubgb
+
+  -- Intro and rcases can be combined into one command `rintro`
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop2.lean]:
```suggestion
  -- `intro` and `rcases` can be combined into one command: `rintro`
```

File: Formal2024/Workshops/workshop2.lean [hunk 17]
```diff
@@ -0,0 +1,239 @@
...
+example (surjg : Surjective g) (surjf : Surjective f) : Surjective fun x ↦ g (f x) := by
+  sorry
+
+
+
+/-!
+  # Negation
+-/
+
+-- To write `¬` type
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop2.lean]:
```suggestion
-- To write `¬` type `\not`.
```

File: Formal2024/Workshops/workshop2.lean [hunk 18]
```diff
@@ -0,0 +1,239 @@
...
+
+/-!
+  Lean comes with many tactics that helps to deal with negation:
+  · `by_contra h` proof by contradiction: allows us to prove `Q` by assuming
+    `h=¬Q` and deriving a contradiction
+  ⬝ `push_neg` push negations inside quantifiers, changing `¬∀` into `∃¬`, etc...
+  ⬝ `contrapose` transforms a goal `A → B` to `¬B → ¬A`
+  ⬝ `contrapose!` does `contrapose`, and then applies `push_neg` automatically
+  ⬝ `exfalso` applies the theorem `False → Q`, changing the goal into `False`
+-/
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop2.lean]:
```suggestion
/-!
  Lean comes with many tactics that helps to deal with negation:
  · `by_contra h` proof by contradiction: allows us to prove `Q` by assuming
    `h = ¬ Q` and deriving a contradiction
  ⬝ `push_neg` push negations inside quantifiers, changing `¬ ∀` into `∃ ¬`, etc...
  ⬝ `contrapose` transforms a goal `A → B` to `¬ B → ¬ A`
  ⬝ `contrapose!` does `contrapose`, and then applies `push_neg` automatically
  ⬝ `exfalso` applies the theorem `False → Q`, changing the goal into `False`
-/
```

File: Formal2024/Workshops/workshop2.lean [hunk 19]
```diff
@@ -0,0 +1,239 @@
...
+
+
+-- The law of excluded middle (tertium non datur) can only be proved by contradiction
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop2.lean]:
```suggestion
-- The law of excluded middle (in latin, _tertium non datur_) can only be proved by contradiction
```

File: Formal2024/Workshops/workshop2.lean [hunk 20]
```diff
@@ -0,0 +1,239 @@
...
+  exfalso
+  linarith
+
+/-!
+# Exercises
+-/
+
+-- 6. Prove this using `push_neg`.
+
+def EvenFun (f:ℝ→ℝ):=
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop2.lean]:
```suggestion
def EvenFun (f : ℝ → ℝ) :=
```

File: Formal2024/Workshops/workshop2.lean [hunk 21]
```diff
@@ -0,0 +1,239 @@
...
+ ∀ x, f (-x) = f x
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop2.lean]:
```suggestion
 ∀ x, f (- x) = f x
```

File: Formal2024/Workshops/workshop2.lean [hunk 22]
```diff
@@ -0,0 +1,239 @@
...
+
+example : ¬EvenFun fun x => 2 * x := by
```
Comment (themathqueen) [inline Formal2024/Workshops/workshop2.lean:279]:
```suggestion
example : ¬ EvenFun fun x => 2 * x := by
```

**Review by themathqueen — COMMENTED** [review]
I skimmed all of this, I'll do another review tomorrow morning @SimoneCastellan!

File: Formal2024/Workshops/workshop2.lean (hunk 9 above)
Comment (AdrianDoM) [reply Formal2024/Workshops/workshop2.lean]: The usual binary operations bind to the left: `1 + 2 + 3 = (1 + 2) + 3`. I suggest changing 'the usual convention' to 'operations like `+` and `*`.

File: Formal2024/Workshops/workshop2.lean [hunk 23]
```diff
@@ -0,0 +1,239 @@
...
+
+-- Lean is all about types, and checking that something is of the right type
+section
+-- Naively, you can think of types as sets. Here these variables are real numbers
+variable (a b δ : ℝ)
+-- Being of the type of a Proposition means being a proof
+variable (h₀ : 0 < δ) (h₁ : δ ≤ 1)
+variable (ha : |a| < δ) (hb : |b| < δ)
+
+-- An implication is something like a function from sets of proofs to set of proofs
```
Comment (AdrianDoM) [inline Formal2024/Workshops/workshop2.lean]: This is great, but before we explain how implications are like functions, we should probably say a word about functions in general. In particular, how `f a` applies the function `f` to the argument `a`, instead of writing the more usual `f(a)`.

File: Formal2024/Workshops/workshop2.lean [hunk 24]
```diff
@@ -0,0 +1,239 @@
...
+end
+
+
+-- To prove an implication statement, we use intro
+
+example: ∀ x y z : ℝ, x ≤ y → y ≤ z → x ≤ z := by
+  intro x y z h₀ h₁
+  -- Now we can proceed as usual
+  apply le_trans
+  · apply h₀
```
Comment (AdrianDoM) [inline Formal2024/Workshops/workshop2.lean]: I'm probably nitpicking, but it is good practice to use `exact` instead of `apply` when we have a term that matches the goal exactly. If you think this might be confusing to beginners then ignore this.

File: Formal2024/Workshops/workshop2.lean [hunk 25]
```diff
@@ -0,0 +1,239 @@
...
+  · apply h₁
+
+
+-- Using the universal quantifier, we define an upper bounded function
+def FnUb (f : ℝ → ℝ) (a : ℝ) : Prop :=
```
Comment (AdrianDoM) [inline Formal2024/Workshops/workshop2.lean:96]: I think this is the first time we've encountered `Prop`. I think we should say something like: '`Prop` is a type, just like `ℝ`, but its terms are logical statements that can be true or false, e.g. `1 < 2`, `∀ x : ℕ, x ≥ 0` or `2 + 2 = 5`. As we saw before, Lean treats these statements as types themselves, whose terms are proofs of the statement. Hence, if `h : 1 < 2`, then `h` is a proof that `1 < 2`. The type `2 + 2 = 5` has no terms.'

File: Formal2024/Workshops/workshop2.lean [hunk 26]
```diff
@@ -0,0 +1,239 @@
...
+  ∀ x, f x ≤ a
+
+
+
+variable (f g : ℝ → ℝ) (a b : ℝ)
+
+-- It is useful to define functions, this can be done with the command `fun`
+
+#check fun x ↦ x + 1
+#check fun x ↦ f x + g x
```
Comment (AdrianDoM) [inline Formal2024/Workshops/workshop2.lean:106]: We should add examples of the other equivalent notations: `fun x => x + 1`, `λ x => x + 1` and `λ x ↦ x + 1`.

File: Formal2024/Workshops/workshop2.lean [hunk 27]
```diff
@@ -0,0 +1,239 @@
...
+
+-- We can use implication hypothesis to get new hypotheses
+
+example (hfa : FnUb f a) (hgb : FnUb g b) : FnUb (fun x ↦ f x + g x) (a + b) := by
+  intro x
+  dsimp -- This step is needed for lean to unpack the definition of the function
+  apply add_le_add
+  exact hfa x
```
Comment (AdrianDoM) [inline Formal2024/Workshops/workshop2.lean]: It would be good practice to use `·` for the last two exacts.

File: Formal2024/Workshops/workshop2.lean (hunk 18 above)
Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop2.lean]: I was following the stylistic convention of MIL that doesn't put a space between the negation and the proposition

File: Formal2024/Workshops/workshop2.lean (hunk 10 above)
Comment (AdrianDoM) [reply Formal2024/Workshops/workshop2.lean]: Actually, we don't need `dsimp` here. We might still wanna introduce the tactic though.

File: Formal2024/Workshops/workshop2.lean [hunk 28]
```diff
@@ -0,0 +1,239 @@
...
+  To prove an exists statement, we need to provide 2 things. An object of
+  the correct type and a proof that it satisfies the desired property.
+  The first step is done with `use`
+-/
+
+ example : ∃ x : ℝ, 2 * x = 5 := by
+  use 5/2 -- Notice how the goal has changed
+  norm_num -- This is a useful tactic that does arithmetic computations.
+
+-- We can construct a proof term explicitly using the "anonymous constructor" notation
```
Comment (AdrianDoM) [inline Formal2024/Workshops/workshop2.lean]:
```suggestion
-- We can construct a proof term explicitly using the "anonymous constructor" notation.
-- For this we give the element with the desired property, followed by a proof of the property,
-- inside angle brackets `⟨⟩` (you can type these using `\<>`).
```

File: Formal2024/Workshops/workshop2.lean (hunk 23 above)
Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop2.lean]: That's a good point, I'll add something about that

File: Formal2024/Workshops/workshop2.lean (hunk 24 above)
Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop2.lean]: True, MIL for some reason was doing it a lot in these sections. I cleared up some but not all of them, I'll fix it

File: Formal2024/Workshops/workshop2.lean (hunk 25 above)
Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop2.lean:96]: I was planning on saying this during the demo, but it doesn't hurt having it written down

File: Formal2024/Workshops/workshop2.lean (hunk 26 above)
Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop2.lean:106]: This is one of the things I was unsure of. I feel like there's already a lot to cover in this session, so I sticked to a single notation when there were many available (for example I skipped all the discussion about obtain, cases, etc... that is in MIL). So let me know what you all think about this

Comment (themathqueen) [reply Formal2024/Workshops/workshop2.lean:106]: I thought the lambda function was completely replaced by `fun` in Lean 4?

File: Formal2024/Workshops/workshop2.lean (hunk 11 above)
Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop2.lean]: I find out now that the convention for this in English is the opposite that the Italian one, fascinating!

File: Formal2024/Workshops/workshop2.lean (hunk 12 above)
Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop2.lean]: As a proof term

File: Formal2024/Workshops/workshop2.lean (hunk 26 above)
Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop2.lean:106]: Apparently you can still use `\lambda` as a shorthand

File: Formal2024/Homeworks/homework2.lean [hunk 29]
```diff
@@ -0,0 +1,78 @@
...
+/-
+The above exercise can be done in three lines. Try to do the next exercise in four lines.
+-/
+-- [TUT] 0032
+example (hf : Surjective f) (hg : Surjective g) : Surjective (g ∘ f) := by
+  sorry
+
+
+-- Of the following 4 exercises, 3 can be done with elementary logic, one needs contradiction.
+-- Some are trivial after applying `push_neg`. Try doing them explicitly too, as an exercise.
```
Comment (AdrianDoM) [inline Formal2024/Homeworks/homework2.lean]: What do we mean by 'explicitly'? Is it just 'not using `push_neg`'?

File: Formal2024/Workshops/workshop2.lean (hunk 26 above)
Comment (AdrianDoM) [reply Formal2024/Workshops/workshop2.lean:106]: Lambdas are still allowed, but the comma has been replaced by the funky arrows. I leave it up to you whether to include this or not. I thought just showing the notation briefly couldn't hurt, in case they see it used somewhere else. They can then just pick their favourite, or we can ask them to stick to the one you've written.

File: Formal2024/Workshops/workshop2.lean [hunk 30]
```diff
@@ -0,0 +1,239 @@
...
+-- It is useful to define functions, this can be done with the command `fun`
+
+#check fun x ↦ x + 1
+#check fun x ↦ f x + g x
+
+-- We can use implication hypothesis to get new hypotheses
+
+example (hfa : FnUb f a) (hgb : FnUb g b) : FnUb (fun x ↦ f x + g x) (a + b) := by
+  intro x
+  dsimp -- This step is needed for Lean to unpack the definition of the function
```
Comment (AdrianDoM) [inline Formal2024/Workshops/workshop2.lean]: We don't seem to need `dsimp` here, though we might still want to introduce it.

File: Formal2024/Homeworks/homework2.lean (hunk 3 above)
Comment (AdrianDoM) [reply Formal2024/Homeworks/homework2.lean]: Since we haven't seen iff yet, I would change `↔` with `:=`.

File: Formal2024/Homeworks/homework2.lean (hunk 29 above)
Comment (SimoneCastellan) [reply Formal2024/Homeworks/homework2.lean]: They can all be proved without using push_neg by a bit of manipulation with negation. The third one requires proof by contradiction though. See the solutions of MIL S3 for reference

File: Formal2024/Homeworks/homework2.lean [hunk 31]
```diff
@@ -0,0 +1,79 @@
...
+  ring
+
+-- Now it's your turn! Prove the following:
+
+
+example : a ∣ b → a ∣ c → a ∣ b + c := by
+-- To get an even shorter proof, you can use the same `rfl` trick with
+-- the `rintro` tactic too. Try proving it both ways.
+  sorry
+
```
Comment (PatrickKinnear) [inline Formal2024/Homeworks/homework2.lean:47]:
```suggestion


-- We open the `Function` namespace to be able to use theorems and definitions about functions with shorter names, e.g. `Surjective f` instead of `Function.Surjective f`.
```

File: Formal2024/Workshops/workshop2.lean [hunk 32]
```diff
@@ -0,0 +1,257 @@
...
+
+example : FnHasUb f → FnHasUb g → FnHasUb fun x ↦ f x + g x := by
+  rintro ⟨a, ubfa⟩ ⟨b, ubgb⟩
+  exact ⟨a + b, fnUb_add ubfa ubgb⟩
+
+
+/-!
+# Exercises
+-/
+
```
Comment (PatrickKinnear) [inline Formal2024/Workshops/workshop2.lean:209]:
```suggestion

-- We open the `Function` namespace to be able to use theorems and definitions about functions with shorter names, e.g. `Surjective f` instead of `Function.Surjective f`.
```

File: Formal2024/Workshops/workshop2.lean [hunk 33]
```diff
@@ -0,0 +1,257 @@
...
+-- An implication is like a function from sets of proofs to set of proofs
+#check my_lemma a b δ
+#check my_lemma a b δ h₀ h₁
+#check my_lemma a b δ h₀ h₁ ha hb
+
+-- Notice the syntax: if `f` is a function, Lean reads `f x` as `f(x)` (and gives error if `x` is not a valid input)
+-- Lean automatically groups on the left, so `f x y` means `f(x)(y)`
+-- If you need a different order you need to specify it with appropriate brackets
+
```
Comment (PatrickKinnear) [inline Formal2024/Workshops/workshop2.lean:50]:
```suggestion

-- Notice that throughout this section, defined using `section` and `end`, everything defined with `variable` was always visible in the context. Outside of the section these variables will not be available in the context.
```

File: Formal2024/Workshops/workshop2.lean [hunk 34]
```diff
@@ -0,0 +1,257 @@
...
+  · exact h₁
+
+
+-- Using the universal quantifier, we define an upper bounded function
+def FnUb (f : ℝ → ℝ) (a : ℝ) : Prop :=
+  ∀ x, f x ≤ a
+
+
+
+variable (f g : ℝ → ℝ) (a b : ℝ)
```
Comment (PatrickKinnear) [inline Formal2024/Workshops/workshop2.lean:101]: Perhaps this should also be part of a section, does it make sense to define these variables globally?

Raising this as I found it confusing to see f, g appearing in the final example's context.

File: Formal2024/Workshops/workshop2.lean [hunk 35]
```diff
@@ -0,0 +1,257 @@
...
+  push_neg at h
+  -- We can use `push_neg` to rewrite any hypothesis, similarly to `rw`
+  exact h
+
+example (h : ¬FnHasUb f) : ∀ a, ∃ x, f x > a := by
+  contrapose! h -- `push_neg` automatically simplifies things
+  exact h
+
+example (h : 0 < 0) : a > 37 := by
+  exfalso
```
Comment (PatrickKinnear) [inline Formal2024/Workshops/workshop2.lean]:
```suggestion
  exfalso -- we have a contradiction (`0 < 0`), so we can prove anything we want! First change the goal to false.
```

File: Formal2024/Workshops/workshop2.lean [hunk 36]
```diff
@@ -0,0 +1,257 @@
...
+  linarith
```
Comment (PatrickKinnear) [inline Formal2024/Workshops/workshop2.lean]:
```suggestion
  linarith -- Then let `linarith` make the contradiction explicit.
```

File: Formal2024/Workshops/workshop2.lean [hunk 37]
```diff
@@ -0,0 +1,257 @@
...
+  · exact hgb x
+
+/-
+Since Lean sees an implication as a function from proofs of a Proposition to
+proofs of another Proposition, we can write the proof term explicitly, using `fun`.
+This is more concise, but probably less "human-like." Where to draw the line between
+conciseness and human readability is up to you!
+-/
+
+theorem fnUb_add {f g : ℝ → ℝ} {a b : ℝ} (hfa : FnUb f a) (hgb : FnUb g b) :
```
Comment (PatrickKinnear) [inline Formal2024/Workshops/workshop2.lean:127]: Have we introduced curly braces yet?

File: Formal2024/Homeworks/homework2.lean [hunk 38]
```diff
@@ -0,0 +1,79 @@
...
+/-
+The above exercise can be done in three lines. Try to do the next exercise in four lines.
+-/
+-- [TUT] 0032
+example (hf : Surjective f) (hg : Surjective g) : Surjective (g ∘ f) := by
+  sorry
+
+
+-- Of the following 4 exercises, 3 can be done with elementary logic, one needs contradiction.
+-- Some are trivial after applying `push_neg`. Try doing them explicitly too, as an exercise.
```
Comment (PatrickKinnear) [inline Formal2024/Homeworks/homework2.lean]:
```suggestion
-- Some are trivial after applying `push_neg`. Try doing them explicitly (without using `push_neg` and manipulating the negations directly) too, as an exercise.
```

File: Formal2024/Homeworks/homework2.lean (hunk 29 above)
Comment (AdrianDoM) [reply Formal2024/Homeworks/homework2.lean]: Perhaps we should say 'without using `push_neg` too', instead of 'explicitly'.

File: Formal2024/Workshops/workshop2.lean (hunk 26 above)
Comment (themathqueen) [reply Formal2024/Workshops/workshop2.lean:106]: oh, but you can't do `λ x, x + 1`, right? that's only for Lean 3? (as far as I know)

File: Formal2024/Homeworks/homework2.lean (hunk 29 above)
Comment (themathqueen) [reply Formal2024/Homeworks/homework2.lean]: yeah, probably better to be very precise with the language

Comment (themathqueen) [reply Formal2024/Homeworks/homework2.lean]: But, also, can't you just do `rfl` on all of them?

Comment (themathqueen) [reply Formal2024/Homeworks/homework2.lean]: also, I'm pretty certain you can do `by aesop` on all of them

File: Formal2024/Workshops/workshop2.lean (hunk 12 above)
Comment (themathqueen) [reply Formal2024/Workshops/workshop2.lean]: I don't know, this sounds a bit confusing to me. What do you guys think @PatrickKinnear and @AdrianDoM?

File: Formal2024/Homeworks/homework2.lean [hunk 39]
```diff
@@ -0,0 +1,79 @@
...
+-- [TUT] 0029
+example (h₁ : a ∣ b) (h₂ : b ∣ c) : a ∣ c := by
+  sorry
+
+/-
+A very common pattern is to have an assumption or lemma asserting
+  `h : ∃ x, y = ...`
+and this is used through the combo:
+  `rcases h with ⟨x, hx⟩`
+  `rw hx at ...`
```
Comment (themathqueen) [inline Formal2024/Homeworks/homework2.lean:30]:
```suggestion
and this is used through the combo:
  `rcases h with ⟨x, hx⟩`
  `rw hx at ...`
Note that to write the term `⟨x, hx⟩` as above, you type `\langle x, hx \rangle` or equivalently `\< x, hx \>`.
```

File: Formal2024/Homeworks/homework2.lean (hunk 29 above)
Comment (themathqueen) [reply Formal2024/Homeworks/homework2.lean]: okay, not `rfl`. But you can do `aesop` and `exact?` on all of them lol

Comment (SimoneCastellan) [reply Formal2024/Homeworks/homework2.lean]: `rfl` doesn't seem to work, `by aesop` does, but I fell like it would solve in one line half of the exercises we've covered so far ahaha

File: Formal2024/Workshops/workshop2.lean (hunk 12 above)
Comment (PatrickKinnear) [reply Formal2024/Workshops/workshop2.lean]: Do you think it's confusingly worded or a confusing/too difficult task?

This is something it would be good if the students can do at some point (it shows they're really getting their heads around how lean understands lemmas etc), but open to the suggestion that we should cover it slightly later in the course.

Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop2.lean]: Happy for suggestions on the wording @themathqueen . For the question itself, is sort of advanced, but also there is an almost exact example in the demo, so I think they should be able to handle it

File: Formal2024/Workshops/workshop2.lean (hunk 37 above)
Comment (SimoneCastellan) [reply Formal2024/Workshops/workshop2.lean:127]: You're right, perhaps we should also say something about hypotheses of theorems in general?
Like they are logically just an implication, but it's convenient to keep them has hypotheses because Lean allows for the curly bracket and hence implicit variables (which they should know from last session)

Comment (PatrickKinnear) [reply Formal2024/Workshops/workshop2.lean:127]: I actually don't think we covered implicit variables before, so we should either explain them here or keep them explicit and cover implicit variables another time.

File: Formal2024/Workshops/workshop2.lean (hunk 12 above)
Comment (PatrickKinnear) [inline Formal2024/Workshops/workshop2.lean]: How about:

```suggestion
-- 2. Now try proving it without using any tactics. That is, define a function directly using `fun` which takes in an arbitrary `x` and returns a proof that `f x + g x \leq a + b`.
```

File: Formal2024/Workshops/workshop2.lean (hunk 37 above)
Comment (AdrianDoM) [reply Formal2024/Workshops/workshop2.lean:127]: We should explain how the named hypotheses work. For example, we could say that
```
variable (P Q : Prop)

example : P → Q := by
  intro hp
  ...
```
is the same as
```
example (hp : P) : Q := by
  ...
```
Then explaining a little bit about `{}` and implicit arguments shouldn't be too hard.

File: Formal2024/Workshops/workshop2.lean (hunk 12 above)
Comment (PatrickKinnear) [reply Formal2024/Workshops/workshop2.lean]: Have suggested more explicit wording in another snippet.

Comment (themathqueen) [reply Formal2024/Workshops/workshop2.lean]: Yeah, I think it's the wording. Students might not _know_ what a "tactic" exactly is, yet.

File: Formal2024/Workshops/workshop2.lean (hunk 37 above)
Comment (themathqueen) [reply Formal2024/Workshops/workshop2.lean:127]: I like @AdrianDoM's suggestion

**Review by PatrickKinnear — APPROVED** [review]

**Comment by PatrickKinnear** [comment]
merged
